US06599917B1
e) 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-pyridyl Trifluoromethanesulfonate
A mixture of 86 mg of 3-benzyl-5-(2-ethoxycarbonylethyl)-2-hydroxypyridine, 130 mg of N-phenyltrifluoromethanesulfonimide, 0.13 ml of triethylamine, 3.7 mg of 4-dimethylaminopyridine and 1.5 ml of dichloromethane was stirred at room temperature for one hour. Silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to silica gel column chromatography using 15% ethyl acetate/hexane, to give 130 mg of the target compound.

reactant | 3-benzyl-5-(2-ethoxycarbonylethyl)-2-hydroxypyridine | 86 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)CCC(=O)OCC)O | C17H19NO3
reactant | N-phenyltrifluoromethanesulfonimide | 130 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.13 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 3.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-pyridyl Trifluoromethanesulfonate | 130 mg | FC(S(=O)(=O)OC1=NC=C(C=C1CC1=CC=CC=C1)CCC(=O)OCC)(F)F | C18H18F3NO5S
